US06830831B2
4-[(S)-3,7-Dimethyloct-6-enyloxy]phenyl boronic acid:
2.5 M n-Butylithium in hexanes (49.3 cm3, 0.12 mol) was added dropwise to a cooled (−78° C.) solution of 1-bromo-4-[(S)-3,7-dimethyloct-6-enyloxy]benzene (35 g, 0.11 mol) in tetrahydrofuran (350 cm3). The resultant solution was stirred at this temperature for 1 h and then trimethyl borate (23.8 g, 0.23 mol) was added dropwise to the mixture while maintaining the temperature at −78° C. 20% hydrochloric acid (250 cm3) was added and the resultant mixture was stirred for 1h and then extracted into diethyl ether (2×200 cm3). The combined organic layers were washed with water (2×100 cm3) and dried (MgSO4). After filtration the solvent was removed under reduce pressure to yield 20.35 g (65%) of the desired product.

reactant | 1-bromo-4-[(S)-3,7-dimethyloct-6-enyloxy]benzene | 0.11 mol, 35 g | BrC1=CC=C(C=C1)OCC[C@H](CCC=C(C)C)C | C16H23BrO
reactant | trimethyl borate | 0.23 mol, 23.8 g | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 250 cm3 | Cl | ClH
solvent | tetrahydrofuran | 350 cm3 | O1CCCC1 | C4H8O
product | 4-[(S)-3,7-Dimethyloct-6-enyloxy]phenyl boronic acid | 20.35 g, 65% | C[C@H](CCOC1=CC=C(C=C1)B(O)O)CCC=C(C)C | C16H25BO3
